US06933387B2
b) 2-[(3-Chloro-2-methyl-phenyl)-hydrazono]-propionic acid ethyl ester
The title compound was prepared in accordance with the general method of example 25b) from a) (3-chloro-2-methyl-phenyl)-hydrazine and ethyl pyruvate.

reactant | (3-chloro-2-methyl-phenyl)-hydrazine | ClC=1C(=C(C=CC1)NN)C | C7H9ClN2
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 2-[(3-Chloro-2-methyl-phenyl)-hydrazono]-propionic acid ethyl ester | C(C)OC(C(C)=NNC1=C(C(=CC=C1)Cl)C)=O | C12H15ClN2O2
